US04518596
8-Methylamino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 2-chloro-8-methylamino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 278°-280° C.) and piperazine in dioxane at 80° C.

reactant | 2-chloro-8-methylamino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NC)N2CCS(CC2)=O | C11H13ClN6OS
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | 2,8-Dichloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CCS(CC2)=O | C10H9Cl2N5OS
product | 8-Methylamino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | CNC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C15H22N8OS
